US07790724B2
d) 2-(4,4-Dimethyl-cyclohex-1-enyl)-4-(6-methoxy-pyridin-3-yl)-phenylamine
The title compound was prepared from 2-bromo-4-(6-methoxy-pyridin-3-yl)-phenylamine (as prepared in the previous step, 20 mg, 0.07 mmol), 4,4-dimethylcyclohexen-1-yl boronic acid (14 mg, 0.086 mmol), Pd(PPh3)4 (8.0 mg, 0.007 mmol) and 2M Na2CO3 (0.28 mL, 0.56 mmol) according to the procedure in Example 44, step (b) (16 mg, 76%). Mass spectrum (ESI, m/z): Calcd. for C20H24N2O, 309.1 (M+H), found 309.2.

reactant | 2-bromo-4-(6-methoxy-pyridin-3-yl)-phenylamine | BrC1=C(C=CC(=C1)C=1C=NC(=CC1)OC)N | C12H11BrN2O
reactant | 4,4-dimethylcyclohexen-1-yl boronic acid | 0.086 mmol, 14 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
reactant | Na2CO3 | 0.56 mmol, 2M, 0.28 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.007 mmol, 8.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4,4-Dimethyl-cyclohex-1-enyl)-4-(6-methoxy-pyridin-3-yl)-phenylamine | CC1(CC=C(CC1)C1=C(C=CC(=C1)C=1C=NC(=CC1)OC)N)C | C20H24N2O
